US07799822B2
Synthesized according to general procedure 38. A solution of N-(thiazol-2-yl)-4-(1-(2,2,2-trifluoroacetyl)pyrrolidin-2-yl)benzenesulfonamide (750 mg, 1.8 mmol), NaOH (221 mg, 5.5 mmol), and H2O (2.5 mL) was stirred at RT for 1 h, then cooled to 0° C. Hydrochloric acid (0.45 mL, 5.5 mmol) was added, and the reaction was stirred at 0° C. for 20 min. The formed precipitate was filtered off and dried under vacuum to give 4-(pyrrolidin-2-yl)-N-(thiazol-2-yl)benzenesulfonamide (300 mg, 53%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=310.3; tR=0.44 min.

reactant | N-(thiazol-2-yl)-4-(1-(2,2,2-trifluoroacetyl)pyrrolidin-2-yl)benzenesulfonamide | 1.8 mmol, 750 mg | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)C1N(CCC1)C(C(F)(F)F)=O | C15H14F3N3O3S2
reactant | NaOH | 5.5 mmol, 221 mg | [OH-].[Na+]
reactant | Hydrochloric acid | 5.5 mmol, 0.45 mL | Cl | ClH
solvent | H2O | 2.5 mL | O | H2O
product | 4-(pyrrolidin-2-yl)-N-(thiazol-2-yl)benzenesulfonamide | 300 mg, 53% | N1C(CCC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C13H15N3O2S2
